US07973012B2
(2) Preparation of (1S)-1-[5-[4-[4-[(2-amino-1,1-dimethyl-2-oxoethyl)amino]-4-oxobutyl]benzyl]-2-hydroxy-4-methylphenyl]-1,5-anhydro-D-glucitol
To a methanol solution (1 mL) of (1S)-1-[5-(4-[(1E)-4-[(2-amino-1,1-dimethyl-2-oxoethyl)amino]-4-oxobut-1-en-1-yl]benzyl)-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol (75 mg, 0.0765 mmol) was added 20% palladium hydroxide (15 mg), and the mixture was stirred overnight under a hydrogen atmosphere at room temperature. The reaction solution was filtered through celite, and evaporated under reduced pressure to obtain a residue. Thus obtained residue was purified with silica gel column chromatography (chloroform:methanol=5:1, ethyl acetate:ethanol:water=20:2:1) to obtain the title compound (32 mg, 79%) as a colorless powder. NMR data and MS data of the compound are shown in Table 1.

reactant | (1S)-1-[5-(4-[(1E)-4-[(2-amino-1,1-dimethyl-2-oxoethyl)amino]-4-oxobut-1-en-1-yl]benzyl)-2-(benzyloxy)-4-methylphenyl]-1,5-anhydro-2,3,4,6-tetra-O-benzyl-D-glucitol | 0.0765 mmol, 75 mg | NC(C(C)(C)NC(C/C=C/C1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](OCC3=CC=CC=C3)[C@@H](OCC3=CC=CC=C3)[C@H](OCC3=CC=CC=C3)[C@H](O2)COCC2=CC=CC=C2)OCC2=CC=CC=C2)C)C=C1)=O)=O | C63H66N2O8
catalyst | palladium hydroxide | 15 mg | [OH-].[Pd+2].[OH-]
solvent | methanol | 1 mL | CO | CH4O
product | (1S)-1-[5-[4-[4-[(2-amino-1,1-dimethyl-2-oxoethyl)amino]-4-oxobutyl]benzyl]-2-hydroxy-4-methylphenyl]-1,5-anhydro-D-glucitol | 32 mg, 79% | NC(C(C)(C)NC(CCCC1=CC=C(CC=2C(=CC(=C(C2)[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO)O)C)C=C1)=O)=O | C28H38N2O8
